US05296603
An aqueous solution obtained by dissolving 9.1 g of sodium hydroxide in 90 ml of water was added to 5.8 g (46%) of methyl 5-acetyl-3-amino-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2carboxylate (Compound No. 16) obtained in Example 1 and the resultant mixture was heated under reflux for 2 hours. After cooling followed by neutralization with concentrated hydro-chloric acid, the solvent was distilled off. Methanol was added to the residue and the crystals thus formed were taken by filtration and thoroughly washed with water to obtain 1.7 g of 3-amino-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylic acid. Yield: 38%.

reactant | sodium hydroxide | 9.1 g | [OH-].[Na+]
reactant | methyl 5-acetyl-3-amino-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2carboxylate | 5.8 g | C(C)(=O)N1CC2=C(CC1)SC(=C2N)C(=O)OC | C11H14N2O3S
reactant | hydro-chloric acid | Cl | ClH
solvent | water | 90 ml | O | H2O
product | 3-amino-4,5,6,7-tetrahydrothieno[3,2-c]pyridine-2-carboxylic acid | 1.7 g, Yield: 38% | NC1=C(SC2=C1CNCC2)C(=O)O | C8H10N2O2S
